US04613676
Z-Phe-His-Leu-Val-Ile-2-(2-pyridyl)-ethyl amide
In a manner analogous to that described in Example 1, using as starting materials 162 mg of Z-Phe-His-OH, 128 mg of H-Leu-Val-Ile-2-(2-pyridyl)-ethyl amide, 57 mg of HOBt and 88 mg of DCCI, the title compound is obtained after flash chromatography (65 g of silica gel 60, 40-63 μm, eluant system B7). Rf (B7)=0.30, Rf (B11)=0.62.

reactant | Z-Phe-His-OH | 162 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H24N4O5
reactant | H-Leu-Val-Ile 2-(2-pyridyl)-ethyl amide | 128 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O.N1=C(C=CC=C1)CC[NH-]
reactant | HOBt | 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 88 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Phe-His-Leu-Val-Ile 2-(2-pyridyl)-ethyl amide | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1=CC=CC=C1.N1=C(C=CC=C1)CC[NH-] | InChI=1S/C40H55N7O8.C7H9N2/c1-7-26(6)34(39(52)53)47-38(51)33(25(4)5)46-37(50)30(18-24(2)3)43-36(49)32(20-29-21-41-23-42-29)44-35(48)31(19-27-14-10-8-11-15-27)45-40(54)55-22-28-16-12-9-13-17-28;8-5-4-7-3-1-2-6-9-7/h8-17,21,23-26,30-34H,7,18-20,22H2,1-6H3,(H,41,42)(H,43,49)(H,44,48)(H,45,54)(H,46,50)(H,47,51)(H,52,53);1-3,6,8H,4-5H2/q;-1/t26-,30-,31-,32-,33-,34-;/m0./s1
